US09238639B2
N-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl)-2,2,2-trifluoroacetamide
To a mixture of 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanamine (33.8 mg) in THF (dry) (5 mL) were added TFAA (21.00 mg) and TEA (0.014 mL). The mixture was stirred at room temperature for 30 min. The mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (20.00 mg).

reactant | 2-((3S)-6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethanamine | 33.8 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCN)C=C2)C=CC(=C1)Cl | C17H17Cl2NO2
reactant | TFAA | 21.00 mg | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-((3S)-6-((2,4-Dichlorobenzyl)oxy)-2,3-dihydro-1-benzofuran-3-yl)ethyl)-2,2,2-trifluoroacetamide | 20.00 mg | ClC1=C(COC2=CC3=C([C@@H](CO3)CCNC(C(F)(F)F)=O)C=C2)C=CC(=C1)Cl | C19H16Cl2F3NO3
